US08383629B2
(E)-7-chloro-1′-(3-(2,6-dichlorophenyl)acryloyl)-2-methylspiro[isoindoline-1,4′-piperidin]-3-one
The title compound was prepared following a procedure analogous to that described in Example 1 using 7-chloro-2-methylspiro[isoindoline-1,4′-piperidin]-3-one and 2,6-dichlorocinnamic acid. 1H NMR (CDCl3) 1.82 (m, 2H), 2.99 (m, 2H), 3.35 (s, 3H), 3.68 (m, 1H), 3.88 (m, 1H), 4.18 (m, 1H), 4.49 (m, 1H), 7.06 (d, 1H), 7.1-7.6 (5H), 7.76 (2H).

reactant | 7-chloro-2-methylspiro[isoindoline-1,4′-piperidin]-3-one | ClC=1C=CC=C2C(N(C3(CCNCC3)C12)C)=O | C13H15ClN2O
reactant | 2,6-dichlorocinnamic acid | ClC1=C(C=CC(=O)O)C(=CC=C1)Cl | C9H6Cl2O2
product | (E)-7-chloro-1′-(3-(2,6-dichlorophenyl)acryloyl)-2-methylspiro[isoindoline-1,4′-piperidin]-3-one | ClC=1C=CC=C2C(N(C3(CCN(CC3)C(\C=C\C3=C(C=CC=C3Cl)Cl)=O)C12)C)=O | C22H19Cl3N2O2
